US04076838
17.8 g of 5-(4-carboxymethylphenyl)-3-methylvaleric acid are added at 100°, while stirring, to 200 g of polyphosphoric acid. The reaction mixture is stirred at 100° for a further hour, is cooled to about 60°, and 100 cc of water are added dropwise thereto. The reaction mixture is then poured on ice, extracted with methylene chloride, the methylene chloride extract is washed with water and dried over sodium sulphate. The 6,7,8,9-tetrahydro-7-methyl-9-oxo-5H-benzocycloheptene-2-acetic acid, obtained after concentrating the solvent, is purified by chromatography on silica gel. The title compound has a M.P. of 105°-107° (from acetonitrile). The cyclohexylammonium salt form of the title compound has a M.P. of 135°-137° (from acetonitrile).

reactant | 5-(4-carboxymethylphenyl)-3-methylvaleric acid | 17.8 g | C(=O)(O)CC1=CC=C(C=C1)CCC(CC(=O)O)C | C14H18O4
solvent | water | 100 cc | O | H2O
product | 6,7,8,9-tetrahydro-7-methyl-9-oxo-5H-benzocycloheptene-2-acetic acid | CC1CCC2=C(C(C1)=O)C=C(C=C2)CC(=O)O | C14H16O3
